US06369092B1
6-t-Butoxycarbonylamino-1-(2-Chlorobenzyl)-2-n-Propylbenzimidazole
6-Carboxy-1-(2-chlorobenzyl)-2-n-propylbenzimidazole (200 mg) is suspended in t-butyl alcohol (5 ml), then diphenylphosphorylazide (0.19 ml) and diisopropyl-ethylamine (0.21 ml) are added at room temperature. The reaction mixture is refluxed for 4 hours. Then, the solution is separated into layers using ethyl acetate and water. After the organic layer is washed with water and dried, it is concentrated under reduced pressure. The residue is developed and purified using column chromatography with ethyl acetate/hexane (1/10˜1/3), recrystallized in ethyl acetate/hexane and 6-t-butoxycarbonyl-amino-1-(2-chlorobenzyl)-2-n-propylbenzinidazole (165 mg) is obtained. (Colorless crystals) 1H-NMR (CDCl3, δ): 0.98 (3H, t, J=8 Hz), 1.50 (9H, s), 1.86 (2H, sextet, J=8 Hz), 2.72 (2H, t, J=8 Hz), 5.38 (2H, s), 6.40 (1H, dd, J=1, 8 Hz), 6.95 (1H, dd, J=1, 10 Hz), 7.08 (1H, dt, J=1, 8 Hz), 7.24 (1H, dt, J=1, 8 Hz), 7.28 (1H, d, J=1 Hz), 7.45 (1H, dd, J=1, 8 Hz), 7.66 (1H, d, J=10 Hz).

reactant | 6-Carboxy-1-(2-chlorobenzyl)-2-n-propylbenzimidazole | 200 mg | C(=O)(O)C=1C=CC2=C(N(C(=N2)CCC)CC2=C(C=CC=C2)Cl)C1 | C18H17ClN2O2
reactant | diphenylphosphorylazide | 0.19 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | diisopropyl-ethylamine | 0.21 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | t-butyl alcohol | 5 ml | C(C)(C)(C)O | C4H10O
product | 6-t-Butoxycarbonylamino-1-(2-Chlorobenzyl)-2-n-Propylbenzimidazole | C(C)(C)(C)OC(=O)NC=1C=CC2=C(N(C(=N2)CCC)CC2=C(C=CC=C2)Cl)C1 | C22H26ClN3O2
